US09023858B2
2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pteridine-4,7(3H,8H)-dione
A mixture of 2-(ethylsulfanyl)-7-methoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pteridin-4(3H)-one (92 mg), pyridine hydrochloride (640 mg) and N,N-dimethylformamide (3 ml) was stirred at 120° C. for 10 hr, and in the same manner as in Example 6, the title compound (50 mg) was obtained as a white powder.

reactant | 2-(ethylsulfanyl)-7-methoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pteridin-4(3H)-one | 92 mg | C(C)SC1=NC2=NC(=CN=C2C(N1C1=CC=C(C=C1)OCC(F)(F)F)=O)OC | C17H15F3N4O3S
reactant | pyridine hydrochloride | 640 mg | Cl.N1=CC=CC=C1
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pteridine-4,7(3H,8H)-dione | 50 mg | C(C)SC1=NC=2NC(C=NC2C(N1C1=CC=C(C=C1)OCC(F)(F)F)=O)=O | C16H13F3N4O3S
